2121-10-05 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-10-5**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 91 (86 - 91) bpm
   BP: 109/89(94) {106/51(67) - 120/89(94)} mmHg
   RR: 16 (11 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
             262 mL
   PO:
             TF:
   IVF:
   262 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    260 mL
   Urine:
   260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal, Distant), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar rales, No(t) Wheezes : , No(t) Diminished: )
   Abdominal: Bowel sounds present, Distended, Tender: periumbilical ttp
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 4,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   259 K/uL
   10.5 g/dL
   132 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.8 mEq/L
   21 mg/dL
   103 mEq/L
   135 mEq/L
   31.0 %
   12.0 K/uL
        [image002.jpg]
                            [**2121-10-5**]  03:14 AM
   WBC
   12.0
   Hct
   31.0
   Plt
   259
   Cr
   1.1
   Glucose
   132
   Other labs: PT / PTT / INR:12.9/23.9/1.1, ALT / AST:106/63, Alk Phos /
   T Bili:107/0.3, Albumin:3.8 g/dL, LDH:219 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   A/P: 69 yo with HIV/HCV/multifocal HCC presenting with acute onset abd
   pain and hemoperitoneum.
   .
   # Abdominal pain:  CT abd showing hemoperitoneal concerning for
   hemorrhage from HCC met, mostly likely source of abdominal pain.  He is
   currently in IR receiving chemoembolization.  Could also have bowel
   source of abdominal pain, most concerning would be embolic/ischemic
   event.  Denies BRBPR/melena.  CT abd final read pending.
   - IR for chemoembolization, f/u recs
   - active type/screen
   - serial HCTs, transfuse HCT < 21
   - 2 large bore IVs
   - pain control
   - f/u final CT abd/pelvis read
   - consider diagnostic para if fevers/leukocytosis, though would hold
   off for now in setting of hemoperitoneum
   .
   # Leukocytosis: likely stress reaction, afebrile, though culture for
   possible infection reasonable.
   - BCx, UCx
   .
   # HCC: IR as above. Thought candidate for TACE or sorafenib, but not
   surgical resection or transplant.
   - alert ONC to his presence in AM.
   .
   # HIV: currently holding ARTs given acute illness/bleed and risk of
   pancytopenia/anemia on ARTs.  Will discuss restarting with ONC/IR/ID.
   .
   # HCV: treatment naive.  No acute issues.
   .
   # Cirrhosis: liver synthetic function appears preserved with INR and
   tbili wnl.
   - follow LFTs and synthetic function s/p embolization
   .
   # Access: 2 large bore IVs
   .
   # PPx: PPI, bowel regimen, sc heparin
   .
   # FEN: NPO for procedure, then regular diet.  replete lytes prn.
   .
   # Code: documented DNR/DNI in OMR note [**2121-9-30**].  Will readdress with
   patient.
   .
   # Dispo: ICU after IR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-10-5**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-10-05 09:09:00 Physician Attending Progress Note
Chief Complaint: hemoperitoneum into HCC mets
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 69 yr old man with HIV and Hep C and metastatic HCC presents with
   ruptured HCC lesion and hemoperitoneum
   24 Hour Events:
   s/p embolization to left hepatic artery, tolerated well hemodynamically
   but has severe pain
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-10-5**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.5
C (95.9
   HR: 93 (86 - 93) bpm
   BP: 112/69(78) {106/51(67) - 120/89(94)} mmHg
   RR: 14 (10 - 16) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
             520 mL
   PO:
             TF:
   IVF:
   520 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    320 mL
   Urine:
   320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Gen
   HEENT
   CV
   Chest
   Abd
   EXt
   Labs / Radiology
   10.5 g/dL
   259 K/uL
   132 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.8 mEq/L
   21 mg/dL
   103 mEq/L
   135 mEq/L
   31.0 %
   12.0 K/uL
        [image002.jpg]
                            [**2121-10-5**]  03:14 AM
   WBC
   12.0
   Hct
   31.0
   Plt
   259
   Cr
   1.1
   Glucose
   132
   Other labs: PT / PTT / INR:12.9/23.9/1.1, ALT / AST:106/63, Alk Phos /
   T Bili:107/0.3, Albumin:3.8 g/dL, LDH:219 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
   A/P: 69 yo with HIV/HCV/multifocal HCC presenting with acute onset abd
   pain and hemoperitoneum.
   .
   # Abdominal pain:  CT abd showing hemoperitoneal concerning for
   hemorrhage from HCC met, mostly likely source of abdominal pain.  He is
   currently in IR receiving chemoembolization.  Could also have bowel
   source of abdominal pain, most concerning would be embolic/ischemic
   event.  Denies BRBPR/melena.  CT abd final read pending.
   - IR for chemoembolization, f/u recs
   - active type/screen
   - serial HCTs, transfuse HCT < 21
   - 2 large bore IVs
   - pain control
   - f/u final CT abd/pelvis read
   - consider diagnostic para if fevers/leukocytosis, though would hold
   off for now in setting of hemoperitoneum
   .
   # Leukocytosis: likely stress reaction, afebrile, though culture for
   possible infection reasonable.
   - BCx, UCx
   .
   # HCC: IR as above. Thought candidate for TACE or sorafenib, but not
   surgical resection or transplant.
   - alert ONC to his presence in AM.
   .
   # HIV: currently holding ARTs given acute illness/bleed and risk of
   pancytopenia/anemia on ARTs.  Will discuss restarting with ONC/IR/ID.
   .
   # HCV: treatment naive.  No acute issues.
   .
   # Cirrhosis: liver synthetic function appears preserved with INR and
   tbili wnl.
   - follow LFTs and synthetic function s/p embolization
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-10-5**] 01:00 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  with pt
   [**Name (NI) 36**] status: DNR / DNI
   Disposition : ICU until HCT stabalizes
   Total time spent:

2121-10-06 05:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2121-10-5**] 08:14 AM
   - Hct stable until this am
   - IR consulted, abd pain to be expected
   - abd CT: hemoperitoneum [**12-21**] HCC capsular rupture in L lobe
   - HAART restarted
   - NPO, IVF at 100 cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2121-10-5**] 04:16 PM
   Heparin Sodium (Prophylaxis) - [**2121-10-5**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-10-6**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 104 (91 - 107) bpm
   BP: 127/67(81) {109/61(76) - 157/89(100)} mmHg
   RR: 23 (9 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,045 mL
                                                                    610 mL
   PO:
                                                                     30 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  2,015 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    630 mL
   Urine:
                                                                  1,200 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    845 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal, Distant), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar rales, No(t) Wheezes : , No(t) Diminished: )
   Abdominal: Bowel sounds present, Distended, RUQ tenderness regardless
   of where the abdomen is palpated.  No rebound or guarding.
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 4,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   256 K/uL
   9.0 g/dL
   134 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.8 mEq/L
   19 mg/dL
   108 mEq/L
   138 mEq/L
   26.5 %
   17.8 K/uL
        [image002.jpg]
                            [**2121-10-5**]  03:14 AM
                            [**2121-10-5**]  07:45 AM
                            [**2121-10-5**]  12:28 PM
                            [**2121-10-5**]  03:53 PM
                            [**2121-10-6**]  03:31 AM
   WBC
   12.0
   17.8
   Hct
   31.0
   32.3
   30.8
   30.4
   26.5
   Plt
   259
   256
   Cr
   1.1
   1.2
   0.9
   Glucose
   132
   115
   134
   Other labs: PT / PTT / INR:12.9/23.9/1.1, ALT / AST:444/268, Alk Phos /
   T Bili:120/0.7, Albumin:3.3 g/dL, LDH:763 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL; Diff: N 82.2, L 12, M 5, E 0.4.
   Assessment and Plan
   A/P: 69 yo with HIV/HCV/multifocal HCC presenting with acute onset abd
   pain and hemoperitoneum.
   .
   # Abdominal pain:  Likely related to hemorrhage from HCC,
   hemoperitoneum, and chemoembolization.  Abdominal pain is stable from
   yesterday.  No fevers or bandemia to suggest SBP.  Patient does not
   have a history of ascities or prior episodes of SBP.  Pain to be
   expected post-procedure per IR.  Pain control with percocet.
   - consider diagnostic para if fevers or increasing leukocytosis with
   bandemia.
   .
   # Hemoperitoneum / hematocrit drop: Hct drop of 4 points after stable
   for 24 hours concerning for continued hemorrhage.
   - discuss with IR whether further imaging or procedures are warranted
   - active type/screen
   - serial HCTs, Q6H, transfuse HCT < 21
   - 2 large bore IVs
   .
   # Leukocytosis: likely stress reaction, afebrile.  Blood and urine
   cultures pending.
   - consider diagnostic para if fevers or increasing leukocytosis with
   bandemia.
   .
   # Transaminitis: Likely secondary to chemoembolization.
   .
   # HCC: IR as above. Thought candidate for TACE or sorafenib, but not
   surgical resection or transplant.
   .
   # HIV: HAART restarted [**10-5**].
   .
   # HCV: ? previous treatment at OS institution.  No acute issues.
   .
   # Cirrhosis: liver synthetic function appears preserved with INR and
   tbili wnl.
   - follow LFTs and synthetic function s/p embolization
   .
   # Access: 2 large bore IVs
   .
   # PPx: PPI, bowel regimen, sc heparin
   .
   # FEN: sips as tolerated, holding regular diet until IR weighs in.
   Fluids: D51/2NS maintenance fluids.  Replete lytes prn.
   .
   # Code: documented DNR/DNI in OMR note [**2121-9-30**].  Will need to
   readdress with any procedures.
   .
   # Dispo: ICU currently, if hct stabilizes consider call-out to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-10-5**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-10-06 10:30:00 Physician Attending Progress Note
Chief Complaint: Blood Loss Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2121-10-5**] 08:14 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2121-10-5**] 04:16 PM
   Heparin Sodium (Prophylaxis) - [**2121-10-5**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2121-10-6**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 96 (93 - 107) bpm
   BP: 136/73(86) {95/11(34) - 157/82(100)} mmHg
   RR: 23 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,045 mL
                                                                    729 mL
   PO:
                                                                     30 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  2,015 mL
                                                                    699 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                  1,120 mL
   Urine:
                                                                  1,200 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    845 mL
                                                                   -391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Bowel sounds present, Tender: --right and left
   sided areas of pain and tenderness.  He had no change by his report but
   with tenderness in Right Upper Quadrant with lesser findings on right
   sided exam.
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   256 K/uL
   134 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.8 mEq/L
   19 mg/dL
   108 mEq/L
   138 mEq/L
   26.1 %
   17.8 K/uL
        [image002.jpg]
                            [**2121-10-5**]  03:14 AM
                            [**2121-10-5**]  07:45 AM
                            [**2121-10-5**]  12:28 PM
                            [**2121-10-5**]  03:53 PM
                            [**2121-10-6**]  03:31 AM
                            [**2121-10-6**]  08:39 AM
   WBC
   12.0
   17.8
   Hct
   31.0
   32.3
   30.8
   30.4
   26.5
   26.1
   Plt
   259
   256
   Cr
   1.1
   1.2
   0.9
   Glucose
   132
   115
   134
   Other labs: PT / PTT / INR:12.9/23.9/1.1, ALT / AST:444/268, Alk Phos /
   T Bili:120/0.7, Differential-Neuts:82.2 %, Lymph:12.1 %, Mono:5.2 %,
   Eos:0.4 %, Albumin:3.3 g/dL, LDH:763 IU/L, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   68 yo male with known history of HIV, Hep C and multifocal
   hepatocellular carcinoma now presenting with rupture and has had
   embolization procedure with reasonable control of acute bleeding based
   on no extravisation of contrast following procedure.  He has had
   repeated HCT check with HCT=26 through this morning.  He has had
   significant discussions with his primary physician of Dr. [**Last Name (STitle) 3666**] and
   they have provided clear guidance in ragards to goals of care
   consistent with DNR/DNI status
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   -This is attributable to rupture and blood loss from HCC with blood
   loss into peritoneum
   -he has a modest decrease in HCT this morning from 30->26
   -Mild tachycardia only and no evidence of worsening hemodynamic insult
   this morning
   -Will continue with HCT q 6 hours and transfuse for further decline to
   <24 acutely
   -2 large bore IV
s in place
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
   -Patient s/p embolization
   -Continue with supportive care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-10-5**] 01:00 AM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition : ICU
   Total time spent: 35

2121-10-07 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Hematocrit stable
   Health care proxy not assigned.  Pt has not disclosed HIV status to
   sister who would be HCP.  If pt is not able to make medical decisions,
   contact Dr. [**Last Name (STitle) 3681**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2121-10-7**] 04:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-10-7**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.5
C (99.5
   HR: 95 (93 - 107) bpm
   BP: 134/58(74) {95/11(34) - 138/73(86)} mmHg
   RR: 22 (18 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,922 mL
                                                                    559 mL
   PO:
                                                                    240 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,682 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    320 mL
   Urine:
                                                                  1,620 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    302 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal, Distant), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar rales, No(t) Wheezes : , No(t) Diminished: )
   Abdominal: Bowel sounds present, Distended, RUQ tenderness regardless
   of where the abdomen is palpated.  No rebound or guarding.
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 4,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   220 K/uL
   8.9 g/dL
   135 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   14 mg/dL
   107 mEq/L
   138 mEq/L
   25.8 %
   18.0 K/uL
        [image002.jpg]
                            [**2121-10-5**]  03:14 AM
                            [**2121-10-5**]  07:45 AM
                            [**2121-10-5**]  12:28 PM
                            [**2121-10-5**]  03:53 PM
                            [**2121-10-6**]  03:31 AM
                            [**2121-10-6**]  08:39 AM
                            [**2121-10-6**]  12:16 PM
                            [**2121-10-6**]  06:00 PM
                            [**2121-10-7**]  12:57 AM
   WBC
   12.0
   17.8
   18.0
   Hct
   31.0
   32.3
   30.8
   30.4
   26.5
   26.1
   27.3
   25.9
   25.8
   Plt
   259
   256
   220
   Cr
   1.1
   1.2
   0.9
   0.8
   Glucose
   132
   115
   134
   135
   Other labs: PT / PTT / INR:14.0/29.5/1.2, ALT / AST:388/148, Alk Phos /
   T Bili:120/1.3, Differential-Neuts:82.2 %, Lymph:12.1 %, Mono:5.2 %,
   Eos:0.4 %, Albumin:3.3 g/dL, LDH:543 IU/L, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   A/P: 69 yo with HIV/HCV/multifocal HCC presenting with acute onset abd
   pain and hemoperitoneum.
   .
   # Abdominal pain:  Likely related to hemorrhage from HCC,
   hemoperitoneum, and chemoembolization.  Abdominal pain is stable from
   yesterday.  No fevers or bandemia to suggest SBP.  Patient does not
   have a history of ascities or prior episodes of SBP.  Pain to be
   expected post-procedure per IR.  Pain control with percocet.
   - consider diagnostic para if fevers or increasing leukocytosis with
   bandemia.
   .
   # Hemoperitoneum / hematocrit drop: Hct drop of 4 points after stable
   for 24 hours concerning for continued hemorrhage.
   - discuss with IR whether further imaging or procedures are warranted
   - active type/screen
   - serial HCTs, Q6H, transfuse HCT < 21
   - 2 large bore IVs
   .
   # Leukocytosis: likely stress reaction, afebrile.  Blood and urine
   cultures pending.
   - consider diagnostic para if fevers or increasing leukocytosis with
   bandemia.
   .
   # Transaminitis: Likely secondary to chemoembolization.
   .
   # HCC: IR as above. Thought candidate for TACE or sorafenib, but not
   surgical resection or transplant.
   .
   # HIV: HAART restarted [**10-5**].
   .
   # HCV: ? previous treatment at OS institution.  No acute issues.
   .
   # Cirrhosis: liver synthetic function appears preserved with INR and
   tbili wnl.
   - follow LFTs and synthetic function s/p embolization
   .
   # Access: 2 large bore IVs
   .
   # PPx: PPI, bowel regimen, sc heparin
   .
   # FEN: sips as tolerated, holding regular diet until IR weighs in.
   Fluids: D51/2NS maintenance fluids.  Replete lytes prn.
   .
   # Code: documented DNR/DNI in OMR note [**2121-9-30**].  Will need to
   readdress with any procedures.
   .
   # Dispo: ICU currently, if hct stabilizes consider call-out to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-10-5**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-10-07 11:05:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   HCT low but stable across the past 24 hours without recurrent bleeding
   suggested.
   Dilaudid for pain
   24 Hour Events:
                            History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-10-7**] 08:00 AM
   Hydromorphone (Dilaudid) - [**2121-10-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Pain: [**3-25**] Moderate
   Pain location: Abdomen
   Flowsheet Data as of  [**2121-10-7**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.4
   HR: 89 (89 - 107) bpm
   BP: 120/65(77) {112/46(62) - 137/73(85)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,922 mL
                                                                    779 mL
   PO:
                                                                    240 mL
                                                                    270 mL
   TF:
   IVF:
                                                                  1,682 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    540 mL
   Urine:
                                                                  1,620 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    302 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Tender: right > left but diffuse
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   220 K/uL
   135 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   14 mg/dL
   107 mEq/L
   138 mEq/L
   25.8 %
   18.0 K/uL
        [image002.jpg]
                            [**2121-10-5**]  03:14 AM
                            [**2121-10-5**]  07:45 AM
                            [**2121-10-5**]  12:28 PM
                            [**2121-10-5**]  03:53 PM
                            [**2121-10-6**]  03:31 AM
                            [**2121-10-6**]  08:39 AM
                            [**2121-10-6**]  12:16 PM
                            [**2121-10-6**]  06:00 PM
                            [**2121-10-7**]  12:57 AM
   WBC
   12.0
   17.8
   18.0
   Hct
   31.0
   32.3
   30.8
   30.4
   26.5
   26.1
   27.3
   25.9
   25.8
   Plt
   259
   256
   220
   Cr
   1.1
   1.2
   0.9
   0.8
   Glucose
   132
   115
   134
   135
   Other labs: PT / PTT / INR:14.0/29.5/1.2, ALT / AST:388/148, Alk Phos /
   T Bili:120/1.3, Differential-Neuts:82.2 %, Lymph:12.1 %, Mono:5.2 %,
   Eos:0.4 %, Albumin:3.3 g/dL, LDH:543 IU/L, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:1.2 mg/dL
   Microbiology: Blood Culture and Urine Culture-Pending
   Assessment and Plan
   69 yo male admit with acute onset bleeding with likely ruptured hepatic
   lesion with loss of blood into peritoneum with resulting anemia and
   abdominal pain.  Patient has had reasonable stability of HCT in the
   setting of post embolization.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)=-
   -HCT check decrease to q 12 hours given stability and improvement in
   exam
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   -Still with significant discomfort which may be related to peritoneal
   irritation as well as post embolization pain from infarction
   -Continue with dilaudid
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
   -Improved LFT's following supportive care following embolization
   -Leukocytosis-
   -Diff needed on WBC count
   -Follow up cultures
   -[**Month (only) 51**] be post procedure
   -Consider Antibiotics for fevers in the setting of immuno-compromised
   state
   -Consider Paracentesis for possible ascites and infection and repeat
   abdominal imaging should WBC count continue to rise
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-10-5**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes